US09238639B2
C) 6-((2,2-Dimethylpropanoyl)oxy)-3-(2-methoxy-2-oxoethyl)-1-benzothiophene-4-carboxylic acid
To a mixture of 4-formyl-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate (150 mg), acetone (1 mL) and water (1 mL) was added KMnO4 (85 mg, 0.54 mmol) at room temperature. The mixture was stirred at room temperature for 1 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (145 mg).

reactant | 4-formyl-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate | 150 mg | C(C(C)(C)C)(=O)OC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C=O | C17H18O5S
reactant | acetone | 1 mL | CC(=O)C | C3H6O
reactant | KMnO4 | 0.54 mmol, 85 mg | [O-][Mn](=O)(=O)=O.[K+]
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | 6-((2,2-Dimethylpropanoyl)oxy)-3-(2-methoxy-2-oxoethyl)-1-benzothiophene-4-carboxylic acid | 145 mg | CC(C(=O)OC=1C=C2C(C(=CS2)CC(=O)OC)=C(C1)C(=O)O)(C)C | C17H18O6S
